US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-[(7-morpholin-4-yl)-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl]-6-methylquinolin-4-amine
A mixture of N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-6-methyl-2-[7-(morpholin-4-yl)-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl]quinolin-4-amine (100 mg, 0.14 mmol), 10% palladium hydroxide on active carbon (100 mg) and trifluoroacetic acid (0.5 mL) in methanol (20 mL) was stirred for 12 hours under hydrogen (1 bar). Then the mixture was basified with a saturated aqueous solution of sodium bicarbonate, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford 30 mg of the product (yield was 40%). MS obsd. (ESI+) [(M+H)+] 524, 1HNMR ((400 MHz, CD3OD) δ ppm 7.72-7.60 (m, 2 H), 7.56 (d, J=2.27 Hz, 1 H), 7.33 (d, J=8.34 Hz, 1 H), 7.25 (dd, J=8.46, 1.39 Hz, 1 H), 6.85 (dd, J=8.84, 2.53 Hz, 1 H), 6.30-6.03 (m, 2 H), 5.00 (brs, 2 H), 4.53-4.31 (m, 4 H), 3.86-3.68 (m, 4 H), 3.51 (d, J=14.40 Hz, 4 H), 3.33-3.19 (m, 6 H), 2.41 (brs, 1 H), 2.37 (s, 3 H).

reactant | N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-6-methyl-2-[7-(morpholin-4-yl)-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl]quinolin-4-amine | 0.14 mmol, 100 mg | C(C1=CC=CC=C1)N(C1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=C(C=C2)N2CCOCC2)(=O)=O)CC2=CC=CC=C2 | C41H45N5O4S
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-[(3-Aminooxetan-3-yl)methyl]-2-[(7-morpholin-4-yl)-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl]-6-methylquinolin-4-amine | 30 mg, yield was 40% | NC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=C(C=C2)N2CCOCC2)(=O)=O | C27H33N5O4S
